US08859541B2
E4b) tert-butyl-N-[1-oxo-1-[[1-[2-(1,3-thiazol-4-yl)ethynyl]isoquinolin-3-yl]amino]-propan-2-yl]carbamate
A mixture of tert-butyl-N-[1-[(1-ethynylisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate D4a (50 mg, 0.15 mmol), 4-bromo-1,3-thiazole (24 mg, 0.15 mmol), copper(I) iodide (3 mg, 0.02 mmol), Dichlorobis(triphenylphosphine)palladium(II) (10 mg, 0.01 mmol) and DIPEA (75 μl, 0.44 mmol) is stirred under argon atmosphere in NMP (1 ml) for 2 h at 80° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 12 mg (19%). HPLC-MS: M+H=423; tR=1.84 min (*Method—4).

reactant | tert-butyl-N-[1-[(1-ethynylisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate | C(C)(C)(C)OC(NC(C(=O)NC=1N=C(C2=CC=CC=C2C1)C#C)C)=O | C19H21N3O3
reactant | 4-bromo-1,3-thiazole | 0.15 mmol, 24 mg | BrC=1N=CSC1 | C3H2BrNS
reactant | DIPEA | 0.44 mmol, 75 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
catalyst | copper(I) iodide | 0.02 mmol, 3 mg | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.01 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl-N-[1-oxo-1-[[1-[2-(1,3-thiazol-4-yl)ethynyl]isoquinolin-3-yl]amino]-propan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(NC=1N=C(C2=CC=CC=C2C1)C#CC=1N=CSC1)=O)C)=O | C22H22N4O3S
